US04321372
4-Cyclohexylthiazol-2-ylcarbamoylcarboxylic Acid
Ethyl 4-cyclohexylthiazol-2-ylcarbamoylcarboxylate (1.41 g., 5 mmole) was combined with 40 ml. of water and 5 ml. of 1 N potassium carbonate (1 equivalent, 2.5 mmole) was heated on a steam bath for 15 minutes. After 10 minutes, tlc (chloroform-1% ethanol) indicated hydrolysis was almost complete. The hot reaction mixture was clarified by filtration, cooled in an ice-water bath and acidified with 10.5 ml. of 1 N hydrochloric acid. Product (1.02 g.) was recovered by filtration. Recrystallization from isopropyl alcohol gave purified 4-cyclohexylthiazol-2-ylcarbamoylcarboxylic acid [625 mg.; m.p. 198.5°-200.5° C. (dec)].

reactant | Ethyl 4-cyclohexylthiazol-2-ylcarbamoylcarboxylate | 5 mmole, 1.41 g | C1(CCCCC1)C=1N=C(SC1)NC(=O)C(=O)OCC | C13H18N2O3S
reactant | water | O | H2O
reactant | potassium carbonate | 2.5 mmole, 1 N, 1 equivalent | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Cyclohexylthiazol-2-ylcarbamoylcarboxylic Acid | C1(CCCCC1)C=1N=C(SC1)NC(=O)C(=O)O | C11H14N2O3S
